US07932256B2
To a solution of (S)-2-cyclopropyl-2-[(S)-1-phenylethylamino]ethanol (29.2 g, 0.143 mol) in THF (700 mL) at 0° C. was added NaH (6.29 g, 0.157 mol, 60% dispersion in mineral oil). The cooling bath was removed and the reaction mixture was allowed to warm to room temperature and was stirred at room temperature for 30 min. Methyl iodide (20.30 g, 0.143 mol) was then added dropwise via syringe. Some warming occurred soon after the addition was complete. The temperature of the reaction mixture was controlled at ˜25° C. with a water bath containing a small amount of ice. The reaction mixture was stirred at room temperature for 4 h. The reaction mixture was then slowly quenched with saturated aqueous NaHCO3 solution and was transferred to a separatory funnel containing saturated aqueous NaHCO3 solution (400 mL). The aqueous layer was extracted with ethyl acetate (3×300 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography on silica gel (5% MeOH in 1:1 ethyl acetate/hexanes) to afford (S)-1-cyclopropyl-2-methoxy-N-[(S)-1-phenylethyl]-ethanamine (26.52 g, 85% yield) as a light brown oil: [α]25D−61.5 (c 0.72, CHCl3); 1H NMR (400 MHz, CDCl3) δ 7.30-7.25 (m, 4H), 7.20-7.16 (m, 1H), 3.98-3.93 (q, J=6.8 Hz, 1H), 3.50 (dd, JAB=9.5, JAX=3.5 Hz, 1H), 3.35 (s, 3H), 3.34 (dd, JBA=9.5, JBX=5.8 Hz, 1H), 1.79-1.74 (m, 2H), 1.33 (d, J=6.5 Hz, 3H), 0.73-0.67 (m, 1H), 0.36-0.34 (m, 2W), 0.03-0.06 (m, 2H); GC/MS (ESI) m/e 220.2 [(M+H)+, calcd for C14H22NO 220.2].

reactant | (S)-2-cyclopropyl-2-[(S)-1-phenylethylamino]ethanol | 0.143 mol, 29.2 g | C1(CC1)[C@@H](CO)N[C@@H](C)C1=CC=CC=C1 | C13H19NO
reactant | NaH | 0.157 mol, 6.29 g | [H-].[Na+]
reactant | Methyl iodide | 0.143 mol, 20.30 g | CI | CH3I
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | (S)-1-cyclopropyl-2-methoxy-N-[(S)-1-phenylethyl]-ethanamine | 26.52 g, 85% yield | C1(CC1)[C@@H](COC)N[C@@H](C)C1=CC=CC=C1 | C14H21NO
